US04146721
7.0 grams 1,3,5-triphenyl-pyrazol-4-acetic acid, 3.1 grams phosphorus oxychloride and 40 milliliters benzene were mixed and the mixture was heated to the boiling temperature under reflux for 2 hours. The reaction mixture was then poured on ice, the pH adjusted to 6 by the addition of dilute aqueous sodium carbonate solution. The benzene solution was separated, washed with water, dried over anhydrous magnesium sulfate, and evaporated. The residue, consisting of 1,3,5-triphenyl-pyrazol-4-acetylchloride was taken up in 40 milliliters absolute ether. The ether solution was then added dropwise at 0°-3° C. and within 20 minutes to a solution of 2.8 grams salicyclic acid in a mixture of 20 milliliters ether and 4.2 grams pyridine. The mixture was after stirred for 25 minutes and thereafter poured on a mixture of ice and concentrated aqueous hydrochloric acid. The acid solution was separated, extracted with water, and the ether evaporated. The residue was recrystallized from ethanol. 5.1 grams 1,3,5-triphenyl-pyrazol-4-acetic acid-(2-carboxyphenyl)-ester, melting at 190°-191° C., were obtained representing a yield of 54%.

reactant | 1,3,5-triphenyl-pyrazol-4-acetic acid | 7.0 grams | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)CC(=O)O)C1=CC=CC=C1 | C23H18N2O2
reactant | phosphorus oxychloride | 3.1 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 40 milliliters | C1=CC=CC=C1 | C6H6
product | 1,3,5-triphenyl-pyrazol-4-acetic acid-(2-carboxyphenyl)-ester | 5.1 grams, yield of 54% | C(=O)(O)C1=C(C=CC=C1)OC(CC=1C(=NN(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H22N2O4
